US07288537B2
A solution of {(R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propyl}-carbamic acid tert-butyl ester (0.019 mg, 0.053 mmol) in DCM (1 ml) is treated with trifluoroacetic acid (0.042 ml) and stirred at room temperature overnight. The solvent is evaporated and the residue partition between DCM and 1M sodium hydroxide solution. The aqueous phase is extracted with more DCM (×3) and the combined organic phases washed with brine, dried over magnesium sulphate and evaporated to afford (R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propylamine. [M+H] 255.22

reactant | {(R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propyl}-carbamic acid tert-butyl ester | 0.053 mmol, 0.019 mg | C(C)(C)(C)OC(N[C@@H](CCN1CC(C1)OC1=CC=C(C=C1)Cl)C)=O | C18H27ClN2O3
reactant | trifluoroacetic acid | 0.042 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (R)-3-[3-(4-chloro-phenoxy)-azetidin-1-yl]-1-methyl-propylamine | ClC1=CC=C(OC2CN(C2)CC[C@@H](C)N)C=C1 | C13H19ClN2O
